US05401734
To a solution of 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-carboxymethoxyiminoacetamido]-3-chloromethyl-3-cephem-4-carboxylic acid (syn isomer) (4.0 g) in N,N-dimethylformamide was added dropwise 1-methyl-4-tert-butoxycarbonylpiperazine (6.7 g) at 2° C. under stirring. The stirring was continued for 1.5 hours at 18°-2° C. The reaction mixture was poured into ethyl acetate (200 ml). The resulting precipitates were collected by filtration to give 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-carboxymethoxyiminoacetamido]-3-(1-methyl-4-tert-butoxycarbonyl-1-piperazinio)methyl-3-cephem-4-carboxylate hydrochloride (syn isomer) (5.71 g) .

reactant | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-carboxymethoxyiminoacetamido]-3-chloromethyl-3-cephem-4-carboxylic acid | 4.0 g | NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)O)C1=O)=NOCC(=O)O | C14H13ClN6O7S2
reactant | 1-methyl-4-tert-butoxycarbonylpiperazine | 6.7 g | CN1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-carboxymethoxyiminoacetamido]-3-(1-methyl-4-tert-butoxycarbonyl-1-piperazinio)methyl-3-cephem-4-carboxylate hydrochloride | 5.71 g | Cl.NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2(CCN(CC2)C(=O)OC(C)(C)C)C)C(=O)[O-])C1=O)=NOCC(=O)O | InChI=1S/C24H32N8O9S2.ClH/c1-24(2,3)41-23(39)30-5-7-32(4,8-6-30)9-12-11-42-20-15(19(36)31(20)16(12)21(37)38)26-18(35)14(28-40-10-13(33)34)17-27-22(25)43-29-17;/h15,20H,5-11H2,1-4H3,(H4-,25,26,27,29,33,34,35,37,38);1H/t15-,20-;/m1./s1
